US06066657
4-Bromo-2-(cyclopropyl-methoxy-methyl)-7-methoxybenzofuran
Prepared from 2-(cyclopropyl-methoxy-methyl)-7-methoxybenzofuran (3.12 g) and N-bromosuccinimide (2.4 g) in acetonitrile (45 ml). The title compound was obtained as an orange gum (3.49 g).

reactant | 2-(cyclopropyl-methoxy-methyl)-7-methoxybenzofuran | 3.12 g | C1(CC1)C(C=1OC2=C(C1)C=CC=C2OC)OC | C14H16O3
reactant | N-bromosuccinimide | 2.4 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | acetonitrile | 45 ml | C(C)#N | C2H3N
product | 4-Bromo-2-(cyclopropyl-methoxy-methyl)-7-methoxybenzofuran | BrC1=CC=C(C2=C1C=C(O2)C(OC)C2CC2)OC | C14H15BrO3
